US09145413B2
a. (S)-1-Isopropyl-pyrrolidine-2-carboxylic acid N-(5-fluoro-pyridin-2-yl)-hydrazide (Intermediate 58a)
To a solution of (5-fluoro-pyridin-2-yl)-hydrazine (200 mg, 1.57 mmol) in DMF (15.0 mL) was added (5)-1-isopropyl-pyrrolidine-2-carboxylic acid (Chem. Commun. 2006, 14, 1482, which is incorporated herein by reference in its entirety; 247 mg, 1.57 mmol), EDC (332 mg, 1.73 mmol) and HOBt.H2O (20.0 mg, 0.16 mmol). The reaction was stirred overnight then partitioned between EtOAc and water. The aqueous layer was then extracted with EtOAc (3×). The combined organic layers were washed with brine, dried (MgSO4), filtered and evaporated in vacuo. The residue was purified by FCC, using 0-10% MeOH in DCM, to give the title compound (346 mg, 83%). LCMS (Method 1): Rt 0.37 min, m/z 267.1 [MH+].

reactant | (5-fluoro-pyridin-2-yl)-hydrazine | 1.57 mmol, 200 mg | FC=1C=CC(=NC1)NN | C5H6FN3
reactant | (5)-1-isopropyl-pyrrolidine-2-carboxylic acid | C(C)(C)N1[C@@H](CCC1)C(=O)O | C8H15NO2
reactant | EDC | 1.73 mmol, 332 mg
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.16 mmol, 20.0 mg | O | H2O
solvent | DMF | 15.0 mL | CN(C)C=O | C3H7NO
product | (S)-1-Isopropyl-pyrrolidine-2-carboxylic acid N-(5-fluoro-pyridin-2-yl)-hydrazide | 346 mg, 83% | FC=1C=CC(=NC1)N(N)C(=O)[C@H]1N(CCC1)C(C)C | C13H19FN4O
